US05658491
Preparation of 5-Octyl-2-[4-(4-(2-(2-(pentafluoroethoxy)tetrafluoroethoxy)2,2-difluoroethoxy)butoxy)phenyl]pyrimidine
The title compound was prepared essentially as in Example 1 by combining 5-octyl-2-(4-hydroxyphenyl)pyrimidine (1,995 g, 7.01 mmol) and 4-(2-(2-(pentafluoroethoxy) tetrafluoroethoxy)-2,2-difluoroethoxy)-1-bromobutane (3.44 g, 7.36 mmol; prepared by combining 1,4-dibromobutane with 3-(2-(2-(pentafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethanol). The resulting crude product was isolated and further purified essentially as described in Example 3, eluting with 15 volume percent ethyl acetate/hexane, to yield 4.12 g of purified product.

reactant | 5-octyl-2-(4-hydroxyphenyl)pyrimidine | 7.01 mmol, 1,995 g | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O
reactant | 4-(2-(2-(pentafluoroethoxy) tetrafluoroethoxy)-2,2-difluoroethoxy)-1-bromobutane | FC(C(F)(F)F)(OC(C(OC(COCCCCBr)(F)F)(F)F)(F)F)F | C10H10BrF11O3
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 5-Octyl-2-[4-(4-(2-(2-(pentafluoroethoxy)tetrafluoroethoxy)2,2-difluoroethoxy)butoxy)phenyl]pyrimidine | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCOCC(F)(F)OC(C(OC(C(F)(F)F)(F)F)(F)F)(F)F | C28H33F11N2O4
